US04126687
A mixture of 4.21 parts of 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one, 5 parts of 4-[4-chloro-3-(trifluoromethyl)phenyl]-4-piperidinol, 5.3 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 6 hours with water-separator. The reaction mixture is cooled and water is added. The organic phase is separated, dried, filtered and evaporated. The residue is crystallized from 4-methyl-2-pentanone. The product is filtered off and dried, yielding 3.4 parts (41.6%) of 1-[3-{4-[4-chloro-3-(trifluoromethyl)phenyl]-4-hydroxy-1-piperidinyl}propyl]-1,3-dihydro-2H-benzimidazol-2-one; mp. 189.2° C.

reactant | 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one | ClCCCN1C(NC2=C1C=CC=C2)=O | C10H11ClN2O
reactant | 4-[4-chloro-3-(trifluoromethyl)phenyl]-4-piperidinol | ClC1=C(C=C(C=C1)C1(CCNCC1)O)C(F)(F)F | C12H13ClF3NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-[3-{4-[4-chloro-3-(trifluoromethyl)phenyl]-4-hydroxy-1-piperidinyl}propyl]-1,3-dihydro-2H-benzimidazol-2-one | 41.6% | ClC1=C(C=C(C=C1)C1(CCN(CC1)CCCN1C(NC2=C1C=CC=C2)=O)O)C(F)(F)F | C22H23ClF3N3O2
